US05328794
To the above solvent, a mixture of 200 g of 2-ethylhexyl methacrylate, 5 g of methacrylic acid and 3 g of azobisisobutyronitrile was added dropwise at a constant speed over a period of 2 hours, followed by stirring at 85° C. for 2 hours to complete the polymerization reaction. Thus, 2-ethylhexyl methacrylate - methacrylic acid copolymer was obtained.

reactant | 2-ethylhexyl methacrylate | 200 g | C(C(=C)C)(=O)OCC(CCCC)CC | C12H22O2
reactant | methacrylic acid | 5 g | C(C(=C)C)(=O)O | C4H6O2
reactant | azobisisobutyronitrile | 3 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 2-ethylhexyl methacrylate methacrylic acid | C(C(=C)C)(=O)OCC(CCCC)CC.C(C(=C)C)(=O)O | InChI=1S/C12H22O2.C4H6O2/c1-5-7-8-11(6-2)9-14-12(13)10(3)4;1-3(2)4(5)6/h11H,3,5-9H2,1-2,4H3;1H2,2H3,(H,5,6)
